US07439232B2
Next, to a solution of (4-chloropyridin-3-yl)-(4-ethylphenyl)methanol (3.2 g, 0.0129 mol) in chloroform (45 mL), Dess-Martin periodine (6.5 g, 0.0154 mol) was added under ice cooling and the reaction mixture was stirred at room temperature for 5 hours. After filtration to remove the precipitated insoluble materials, the filtrate was washed with 1M NaOH (40 mL) and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by NH silica gel chromatography (ethyl acetate) to give 4-chloro-3-(4-ethylbenzoyl)pyridine (3.4 g) as a yellow oil. A mixture of 4-chloro-3-(4-ethylbenzoyl)pyridine (3.4 g), 3M HCl (35 mL) and 30% H2O2 (2 drops) was heated under reflux for 6.5 hours. After cooling to room temperature, the reaction mixture was neutralized with Na2CO3. The resulting precipitate was filtered and washed with ethyl acetate to give 3-(4-ethylbenzoyl)-4-hydroxypyridine (2.9 g, 92% for 2 steps) as a light-yellow crystal.

reactant | (4-chloropyridin-3-yl)-(4-ethylphenyl)methanol | 0.0129 mol, 3.2 g | ClC1=C(C=NC=C1)C(O)C1=CC=C(C=C1)CC | C14H14ClNO
reactant | Dess-Martin periodine | 0.0154 mol, 6.5 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | chloroform | 45 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-3-(4-ethylbenzoyl)pyridine | 3.4 g | ClC1=C(C=NC=C1)C(C1=CC=C(C=C1)CC)=O | C14H12ClNO
